US05990156
(4S,5R,6R)-5-Acetylamino-4-hydroxy-6-[(2-biphenyl-4-yl-ethyl)propylcarbamoyl]-5,6-dihydro-4H-pyran-2-carboxylic acid
To a solution of (4S,5S,6R)-5-acetylamino-4-(tert-butyldiphenylsilanyloxy)-6-[(2-biphenyl-4-yl-ethyl)propylcarbamoyl]-5,6-dihydro-4H-pyran-2-carboxylic acid, methyl ester (1.58 g) in anhydrous tetrahydrofuran (15 ml) was added a solution of tetra-n-butylammonium fluoride in anhydrous tetrahydrofuran (2.42 ml of a 1N solution) and the reaction was stirred for 16 hours at 23° C. The solvent was then removed in vacuo and the residue was suspended in brine and extracted with ethyl acetate (3×50 ml). The combined organic extracts were dried over anhydrous magnesium sulphate and the solvent was removed in vacuo. The residue was chromatographed over silica (Merck 9385, 20 g) using medium pressure (ca 4 psi) and dichloromethane/methanol (95:5 v/v) as the eluant. The required fractions were combined and the solvent removed in vacuo to give the title compound as a white solid (0.91 g). 1H NMR (250 MHz, D6 -DMSO rotamers) 8.05 (1H, d, J=8 Hz), 7.63 (4H, m), 7.45 (2H, m), 7.34 (3H, m), 5.92+5.89 (1H, 2×d, J=3 Hz), 5.32 (1H, d, J=6 Hz), 5.01+4.97 (1H, 2×d, J=8 Hz), 4.28 (1H, m), 3.94 (1H, m), 3.73+3.68 (3H, 2×s), 3.45 (1H, m), 3.24 (1H, m), 2.96 (1H, m), 2.76 (1H, m), 1.82+1.79 (3H, 2×s), 1.57 (1H, m), 1.46 (1H, m), 0.83 (0.83(3H, m), Mass analysis: C27H32N2O6. Required: C, 67.48; H, 6.71; N, 5.83. Found: C, 67.08; H, 6.61; N, 5.60.

reactant | (4S,5S,6R)-5-acetylamino-4-(tert-butyldiphenylsilanyloxy)-6-[(2-biphenyl-4-yl-ethyl)propylcarbamoyl]-5,6-dihydro-4H-pyran-2-carboxylic acid, methyl ester | 1.58 g | C(C)(=O)N[C@@H]1[C@H](C=C(O[C@H]1C(N(CCC)CCC1=CC=C(C=C1)C1=CC=CC=C1)=O)C(=O)OC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C43H50N2O6Si
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | (4S,5R,6R)-5-Acetylamino-4-hydroxy-6-[(2-biphenyl-4-yl-ethyl)propylcarbamoyl]-5,6-dihydro-4H-pyran-2-carboxylic acid | 0.91 g | C(C)(=O)N[C@@H]1[C@H](C=C(O[C@H]1C(N(CCC)CCC1=CC=C(C=C1)C1=CC=CC=C1)=O)C(=O)O)O | C26H30N2O6
